US07659421B2
In a three-necked flask, introduce under nitrogen 5 g of 3-(4-bromo-3-methylphenyl)pentan-3-ol (19.4 mmol) and 50 cm3 of tetrahydrofuran. Cool the mixture to −70° C. and add dropwise 23.3 cm3 (58 mmol) of a 2.5M solution of n-butyllithium in hexane, over 30 minutes. Leave the mixture for approximately 2 h with stirring at −70° C. and then add dropwise 13.5 cm3 of triisopropyl borate (58 mmol), over 20 minutes. Leave the mixture with stirring for 3 h, allowing the temperature to increase to −10° C. Hydrolyse the mixture with saturated NH4Cl solution and extract two times with ethyl acetate. Wash the combined organic phases with saturated sodium chloride solution and dry them over sodium sulfate. Evaporate the solvents under vacuum. This gives 5 g of a colorless oil, which is chromatographed on silica gel (heptane/ethyl acetate=9/1) to give 4-(1-ethyl-1-hydroxypropyl)-2-methylphenylboronic acid in the form of a highly viscous oil. (Yield=71%)

reactant | 3-(4-bromo-3-methylphenyl)pentan-3-ol | 19.4 mmol | BrC1=C(C=C(C=C1)C(CC)(CC)O)C | C12H17BrO
reactant | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | 58 mmol, 13.5 cm3 | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | hexane | CCCCCC | C6H14
product | 4-(1-ethyl-1-hydroxypropyl)-2-methylphenylboronic acid | Yield=71% | C(C)C(CC)(O)C1=CC(=C(C=C1)B(O)O)C | C12H19BO3
